US08623887B2
15.01 g (89.9 mmol) 4-nitrobenzoic acid are suspended in 500 mL MeCN and then combined with 15.03 g (108.7 mmol, 1.2 eq) potassium carbonate. 15.4 g (90.4 mmol, 1.01 eq) benzylbromide are added dropwise with stirring and the reaction mixture is heated for 5 h with stirring at 60° C. It is combined with 750 mL distilled water, extracted 4 times with 250 mL of EE and after the organic phases have been combined dried on sodium sulphate. After all the volatile constituents have been eliminated in vacuo the crude product is suspended twice in succession in toluene and evaporated down in vacuo. 20.6 g (80.1 mmol) benzyl 4-nitrobenzoate are obtained, which is used in the next step without any further purification.

reactant | 4-nitrobenzoic acid | 89.9 mmol, 15.01 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | potassium carbonate | 108.7 mmol, 15.03 g, 1.2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 90.4 mmol, 15.4 g, 1.01 eq | C(C1=CC=CC=C1)Br | C7H7Br
solvent | MeCN | 500 mL | CC#N | C2H3N
product | benzyl 4-nitrobenzoate | 80.1 mmol, 20.6 g | [N+](=O)([O-])C1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H11NO4
